US06713455B2
Step C: (E)-3-[5-(2-Pyridinyl)-pyridin-3-yl]-2-propenal
A mixture of Pd2(dba)3 (36 mg, 0.04 mmol) and PPh3 (triphenylphosphine) in DMF (degassed, 2.0 mL) was allowed to stir for 5 min. at 25° C. 1,1′-Diethyl 3-(tributyltin)-propenylacetal (0.44 g, 1.27 mmol) and 3-bromo-5-(2-pyridinyl)-pyridine (100 mg, 0.42 mmol) were added and the resulting mixture was warmed to 80° C. After 18 h, the reaction mixture was allowed to cool to 25° C., diluted with ethyl acetate (100 mL), washed with brine (1×50 mL) and concentrated in vacuo. The residue was dissolved in 2N aqueous HCl (2.0 mL) and allowed to stir for 30 min. The reaction mixture was neutralized by the addition of sodium bicarbonate until the pH ˜7, diluted with ethyl acetate (100 mL), washed with brine (1×50 mL), and concentrated in vacuo. Purification by flash chromatography (0-50% EtOAc/hexanes) afforded the title compound (10 mg) as a white solid. MS 211 (M+H)+.

reactant | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3-bromo-5-(2-pyridinyl)-pyridine | 0.42 mmol, 100 mg | BrC=1C=NC=C(C1)C1=NC=CC=C1 | C10H7BrN2
reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.04 mmol, 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-3-[5-(2-Pyridinyl)-pyridin-3-yl]-2-propenal | 10 mg | N1=C(C=CC=C1)C=1C=C(C=NC1)/C=C/C=O | C13H10N2O
